data/mechanisms/records/IMS4-EQ4.34.json
{"mechanism_id": "IMS4-EQ4.34", "species": [{"species_id": "distonic_charge_migration_form", "mapped_smiles": "[CH3:3][C+:1]([OH:2])[CH2:4][CH2:5][CH:6][CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propene_radical_cation", "mapped_smiles": "[CH3:7][CH:6][CH2+:5]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "acetone_enol_neutral", "mapped_smiles": "[CH2:4]=[C:1]([OH:2])[CH3:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_charge_migration_form"]}, {"state_id": "state_products", "species_ids": ["propene_radical_cation", "acetone_enol_neutral"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_i_4_34", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 72, "equation": "4.34", "figure": null, "panel": null, "section": "4.9 Radical site rearrangements (charge migration)"}, "confidence": 0.85, "curator_note": "Book draws 1 arc; move <1> is drawn and fully accounts for the step (no implicit hook needed because the cleavage is heterolytic). The single two-electron (double-barbed) arrow runs from the C(4)-C(5) sigma bond (the beta C-C bond) into the forming C(1)=C(4) pi bond, regenerating the neutral acetone enol and leaving the beta-carbon C(5) as a carbocation. This is the charge-migration ('i', inductive) branch of the same distonic intermediate that Eq 4.33 forms: the page draws the precursor as the localized carbocation resonance form (charge drawn on the former carbonyl carbon C(1)+, oxygen a neutral -OH, radical drawn on the gamma-carbon C(6)), obtained from the molecular ion by the gamma-H rearrangement (rH, shown at the top of the page) followed by the vertical charge-migration arrow. The detected ion is the propene radical cation, drawn as the distonic form R-CH(.)-CH2(+) (radical on C(6), + on C(5)); its resonance forms are CH3-CH(+)-CH2(.) and [CH3-CH=CH2]+. -- the arrow produces exactly the drawn distonic form. Instantiated with R = CH3, giving propene+. at m/z 42 (IE = 9.7 eV, 5%); for R = C6H5 the migration product is styrene+. at m/z 104 (IE = 8.4 eV) and becomes the base peak (100%)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_42", "species_id": "propene_radical_cation", "step_id": "step_inductive_cleavage", "observed_mz": 42.0464, "relative_intensity": 0.05, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
